US07517877B2
To a solution of 5-bromo-1(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylsulfonylpyrazole (5.0 g, 9.7 mmol) in 1,4-dioxane (20 ml) and N,N-dimethylformamide (20 ml) was added 3-ethylthiopropylamine (2.306 g, 19.3 mmol) and potassium carbonate (2.7 g, 19.3 mmol). The resulting mixture was stirred at 20° C. for 2.75 hours, left to stand overnight, then poured into a mixture of water and dichloromethane. The organic phase was washed with water, dried (sodium sulfate), evaporated and chromatographed on silica gel, eluting with heptane-ethyl acetate (4:1) to give 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-5-(3-ethylthiopropylamino)-4-trifluoromethylsulfonylpyrazole as a yellow solid (Compound number 1-14, 4.79 g, 86% yield), mp 80° C.

reactant | 5-bromo-1(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylsulfonylpyrazole | 9.7 mmol, 5.0 g | BrC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)S(=O)(=O)C(F)(F)F | C12H2BrCl2F6N3O2S
reactant | 3-ethylthiopropylamine | 19.3 mmol, 2.306 g | C(C)SCCCN | C5H13NS
reactant | potassium carbonate | 19.3 mmol, 2.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-5-(3-ethylthiopropylamino)-4-trifluoromethylsulfonylpyrazole | 86% yield | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1NCCCSCC)S(=O)(=O)C(F)(F)F)C#N | C17H14Cl2F6N4O2S2
